data/oMe_Silver.jsonl
{"reaction_id": "NR-135_1-c1ccccc1_2-C(F)(F)F_3-c1ccccc1_4-CC(C)C","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1ccccc1)(C(F)(F)F)=C(c1ccccc1)C(=O)(CC(C)C)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1ccccc1)(C(F)(F)F)=C(c1ccccc1)C(O)(CC(C)C)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1ccccc1)(C(F)(F)F)=C(c1ccccc1)C(=[O+][Ce-](Cl)(Cl)Cl)(CC(C)C)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C(F)(F)F)=C(c1ccccc1)C(O[Ce-](Cl)(Cl)Cl)(CC(C)C)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(C(F)(F)F)=C(c1ccccc1)C(O)(CC(C)C)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
{"reaction_id": "NR-215_1-OC_2-C(C)C_3-Cl_4-c2ccccc2_5-C(C)(C)C_6-Cc2ccccc2_7-C","level": "hard","name": "Pechmann Condensation","reactants_smiles": ["c1ccccc1O(OC)","O=C(C(C(C)C)(Cl)(c2ccccc2))CC(=O)OC(C(C)(C)C)(Cc2ccccc2)(C)"],"products_smiles": ["C(C(C)C)(Cl)(c2ccccc2)C1=CC(=O)Oc2c(OC)cccc21"],"conditions": "acid","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=C(C(C(C)C)(Cl)(c2ccccc2))CC(=O)Oc1c(OC)cccc1","step_weight": 0,"rationale": "Acidic conditions protonate the ester, increasing electrophilicity of the carbonyl carbon, allowing phenol oxygen to attack and displace the original alkoxy group via nucleophilic acyl substitution."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(C(C(C)C)(Cl)(c2ccccc2))CC(=O)Oc1c(OC)cccc1","step_weight": 0,"rationale": "Proton transfer to the β-keto carbonyl oxygen increases its electrophilicity, facilitating subsequent intramolecular attack by activating the carbonyl for cyclization."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "OC(C(C(C)C)(Cl)(c2ccccc2))1CC(=[O])O[C+]2C(OC)=CC=CC21","step_weight": 0,"rationale": "The activated β-keto carbonyl undergoes intramolecular electrophilic attack by the aromatic ring, favored by resonance stabilization of the resulting carbocation intermediate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(C(C)C)(Cl)(c2ccccc2))1CC(=[OH+])Oc2c(OC)cccc21","step_weight": 0,"rationale": "Proton transfer to the hydroxyl oxygen adjacent to the ring oxygen increases leaving group ability, preparing for dehydration and restoring aromaticity."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C(C(C)C)(Cl)(c2ccccc2))1C=C(O)Oc2c(OC)cccc21","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is a good leaving group, and elimination forms the conjugated coumarin system, stabilized by extended π-conjugation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)C)(Cl)(c2ccccc2)C1=CC(=O)Oc2c(OC)cccc21","step_weight": 0,"rationale": "Final deprotonation restores neutrality and aromaticity, yielding the thermodynamically stable coumarin product."}],"description": "Under acidic conditions, the phenol and β-keto ester undergo Pechmann condensation. Acid catalysis activates the carbonyls toward nucleophilic attack, enabling ester exchange, intramolecular electrophilic substitution, and cyclization. Proton transfers facilitate intermediate stabilization, and elimination yields the coumarin core with substituents from both reactants."}
